US07786157B2
3-Chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-N-(2-ureido-ethyl)-benzamide
A mixture of N-(2-Amino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide (80 mg, 0.16 mmol, 1 eq), Trimethylsilyl isocyanate (0.027 ml, 0.19 mmol, 1.2 eq), in THF (1 ml) was stirred at room temperature overnight. It was purified with HPLC to give the desired product. LCMS observed for (M+H)+: 492.1

reactant | N-(2-Amino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide | 0.16 mmol, 80 mg, 1 eq | NCCN(C(C1=CC(=CC=C1)Cl)=O)CC(=O)N1CN(C(C1)=O)C1=C(C(=CC=C1)Cl)C | C21H22Cl2N4O3
reactant | Trimethylsilyl isocyanate | 0.19 mmol, 0.027 ml, 1.2 eq | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-Chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-N-(2-ureido-ethyl)-benzamide | ClC=1C=C(C(=O)N(CCNC(=O)N)CC(=O)N2CN(C(C2)=O)C2=C(C(=CC=C2)Cl)C)C=CC1 | C22H23Cl2N5O4
